US07348337B2
To a solution of AlCl3 (0.411 g, 3.08 mmol) in CH2Cl2 (1.6 mL) and MeNO2 (0.4 mL) was added 4-methoxy-7-(5-methylpyrazol-2-yl)-6-azaindole (0.054 g, 0.237 mmol) as a solid. After dissolution of the starting material (ca. 5 min) ClCOCO2Me (0.087 mL, 0.946 mmol) was added and the mixture was allowed to stir for 5 h. The reaction was cooled to 0° C., quenched by the slow addition of 1 M aqueous NH4OAc and extracted with EtOAc (×3). The combined organic layers were washed (H2O, brine), dried (Na2SO4) and concentrated to give 4-methoxy-7-(3-methylpyrazol-5-yl)-6-azaindol-3-yl-oxoacetic acid methyl ester (0.0550 g, 75%): LCMS: m/e 315 (M+H)+. This material was dissolved in MeOH (2 mL) and treated with 2.5 M NaOH (0.14 mL, 0.35 mmol). The resulting mixture was allowed to stir for 1 h, at which point the solvent was removed and the residue diluted with H2O (2 mL). This mixture was acidified to pH 1 with 6 M HCl, the mixture was washed with EtOAc and then it was lyophilized to give the title compound (0.050 g), which contained a nominal amount of inorganic salts. This material was used as such in the following step:

reactant | AlCl3 | 3.08 mmol, 0.411 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-methoxy-7-(5-methylpyrazol-2-yl)-6-azaindole | 0.237 mmol, 0.054 g | COC1=C2C=CNC2=C(N=C1)N1N=C(C=C1)C | C12H12N4O
reactant | ClCOCO2Me | 0.946 mmol, 0.087 mL | ClC(=O)C(=O)OC | C3H3ClO3
reactant | MeNO2 | 0.4 mL | C[N+](=O)[O-] | CH3NO2
solvent | CH2Cl2 | 1.6 mL | C(Cl)Cl | CH2Cl2
product | 4-methoxy-7-(3-methylpyrazol-5-yl)-6-azaindol-3-yl-oxoacetic acid methyl ester | 0.0550 g, 75% | COC(C(=O)C1=CNC2=C(N=CC(=C12)OC)C1=CC(=NN1)C)=O | C15H14N4O4
